US05013814
A mixture of 15.0 g (25 mmol) of tris(2,6-dichlorobenzyl)sulfonium tetrafluoroborate in 250 ml of methylene chloride is stirred in a 3-necked flask at about 30° C., until a solution is obtained, and then reacted with sodium hexafluoroantimonate at RT as in Example 9(c). Workup of the reaction mixture according to Example 9c) gives 12.6 g (67.4% of theory) of tris(2,6-dichlorobenzyl)sulfonium hexafluoroantimonate in the form of white crystals of melting point 216°-218° C.

reactant | tris(2,6-dichlorobenzyl)sulfonium tetrafluoroborate | 25 mmol, 15.0 g | F[B-](F)(F)F.ClC1=C(C[S+](CC2=C(C=CC=C2Cl)Cl)CC2=C(C=CC=C2Cl)Cl)C(=CC=C1)Cl
reactant | sodium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | tris(2,6-dichlorobenzyl)sulfonium hexafluoroantimonate | 12.6 g, 67.4% | F[Sb-](F)(F)(F)(F)F.ClC1=C(C[S+](CC2=C(C=CC=C2Cl)Cl)CC2=C(C=CC=C2Cl)Cl)C(=CC=C1)Cl | InChI=1S/C21H15Cl6S.6FH.Sb/c22-16-4-1-5-17(23)13(16)10-28(11-14-18(24)6-2-7-19(14)25)12-15-20(26)8-3-9-21(15)27;;;;;;;/h1-9H,10-12H2;6*1H;/q+1;;;;;;;+5/p-6
